US07144906B2
Ethyl 2-(7-benzoylamino-7,7-bis(ethoxycarbonyl)-heptyloxy)-2-methylpropionate
To 5 ml of dry ethanol, 675 mg of 20% sodium ethoxide-ethanol solution and 698 mg of diethyl benzoylaminomalonate were added, and stirred for 30 minutes at room temperature. Then, a solution of 914 mg of methyl 6-bromohexyloxy-2-methylpropionate/4 ml of dry ethanol was added dropwise, and stirred for 15 hours at 50-60° C. The reaction solution was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane: ethyl acetate=5:1) to provide 642 mg of the objective compound as yellowish oil.

reactant | sodium ethoxide ethanol | 675 mg | [O-]CC.[Na+].C(C)O
reactant | diethyl benzoylaminomalonate | 698 mg | C(C1=CC=CC=C1)(=O)NC(C(=O)OCC)C(=O)OCC | C14H17NO5
reactant | methyl 6-bromohexyloxy-2-methylpropionate | 4 ml, 914 mg | BrCCCCCCOC(C(=O)OC)(C)C | C11H21BrO3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 2-(7-benzoylamino-7,7-bis(ethoxycarbonyl)-heptyloxy)-2-methylpropionate | 642 mg | C(C1=CC=CC=C1)(=O)NC(CCCCCCOC(C(=O)OCC)(C)C)(C(=O)OCC)C(=O)OCC | C26H39NO8
